US07858621B2
Step 2: 3-(6-tert-Butyl-pyridin-3-yl)-N-(3,5-difluoro-4-methane sulfonylamino-benzyl)-acrylamide
N-(4-Aminomethyl-2,6-difluoro-phenyl)-methanesulfonamide HCl salt (50 mg, 0.18 mmol) was reacted with 3-(6-tert-butyl-pyridin-3-yl)-acrylic acid (37 mg) to give the title compound (60 mg, 79%) after purification by column chromatography (Hex/EtOAc=1/2).

reactant | N-(4-Aminomethyl-2,6-difluoro-phenyl)-methanesulfonamide HCl salt | 0.18 mmol, 50 mg | Cl.NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)F
reactant | 3-(6-tert-butyl-pyridin-3-yl)-acrylic acid | 37 mg | C(C)(C)(C)C1=CC=C(C=N1)C=CC(=O)O | C12H15NO2
product | 3-(6-tert-Butyl-pyridin-3-yl)-N-(3,5-difluoro-4-methane sulfonylamino-benzyl)-acrylamide | 60 mg, 79% | C(C)(C)(C)C1=CC=C(C=N1)C=CC(=O)NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)F | C20H23F2N3O3S
